US04866091
A mixture of 3'-(3-chlorophenoxy)-4'-nitroacetophenone (2.4 g), iron powder (2.4 g) and ammonium chloride (0.24 g) in ethanol (32 ml) and water (16 ml) was refluxed with stirring for 1 hour. The insoluble was filtered and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethyl acetate (30 ml), washed with water (20 ml), dried, and concentrated to give an oil of 4'-amino-3'-(3-chlorophenoxy)acetophenone (2.3 g).

reactant | 3'-(3-chlorophenoxy)-4'-nitroacetophenone | 2.4 g | ClC=1C=C(OC=2C=C(C=CC2[N+](=O)[O-])C(C)=O)C=CC1 | C14H10ClNO4
reactant | ammonium chloride | 0.24 g | [Cl-].[NH4+]
solvent | ethanol | 32 ml | C(C)O | C2H6O
solvent | water | 16 ml | O | H2O
catalyst | iron | 2.4 g | [Fe] | Fe
product | 4'-amino-3'-(3-chlorophenoxy)acetophenone | 2.3 g | NC1=C(C=C(C=C1)C(C)=O)OC1=CC(=CC=C1)Cl | C14H12ClNO2
